US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(4-piperidinyloxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′S,3S,4′R)-4′-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (0.7 g, 1 mmol) in TFA (10 mL) was stirred at r.t. for 0.5 h. The solution was diluted with DCM, washed with 1N Na2CO3 aq. (50 mL) and brine (50 mL), dried over anhydrous Na2SO4, concentrated to give title compound as a yellow solid (Yield: 0.6 g).

reactant | racemic (2′S,3S,4′R)-4′-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1 mmol, 0.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O | C35H36Cl2FN3O5
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(4-piperidinyloxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 0.6 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1CCNCC1)=O)C1=C(C=CC(=C1)F)C)=O | C30H28Cl2FN3O3
